reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:2]1([H:8])([H:9])[C@@:3]([C:5]#[N:6])([H:10])[O:4]1.[O:1]([H:7])[H:11]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7],56.6822397608114
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:16].[C@@:2]1([C:3]([H:11])([H:12])[H:13])([H:10])[C:4]([H:14])([H:15])[C@:5]1([O:6][H:18])[H:17],110.104534910018
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:4]([N:5]([C+:3]=[C:6]([O-:7])[H:14])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],97.1540527139969
[C:1]([C:2]([C:3]([C:4][O:5][H:13])([H:10])[H:11])([H:9])[H:12])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][H:13])[H:12])([H:6])([H:7])[H:8],22.4655954576926
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C:6]#[N:7])([H:8])([H:9])[H:10].[C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([O:5][H:16])([H:14])[H:15],107.84194226419201
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([N+:6]#[C-:5])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9],39.926304936897296
[C:1]([C@@:2]([O:3][H:10])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]1([H:9])[C:4]([O:3][H:10])=[N:5]1)([H:6])([H:7])[H:8],88.89878460360991
[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:10])([H:11])[H:14])([H:7])([H:8])[H:9].[C:3](=[C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:15])([H:12])[H:13],116.421565020872
[C:1]([C:2]12[C:3]([H:11])([H:12])[C:4]([H:13])([O+:5]=[C-:6]1)[C:7]2([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10],39.2512337340374
[O:1]=[C:2]=[C:3]=[C:4]([C:5]#[C:6][H:8])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[C:6][H:8])[H:7],80.85754392311121
[N:1](=[C:5](/[N:4]1[C:2]([H:7])=[C:3]1[H:8])[H:9])\[H:6]>>[n:1]1([H:6])[c:2]([H:7])[c:3]([H:8])[n:4][c:5]1[H:9],21.018744778109593
[C:1]1([H:8])([H:9])[C@:2]([C:3]([H:12])([H:13])[H:14])([H:11])[C:4]/[C:5]1=[C:6](/[O:7][H:10])[H:15]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],37.7564628661521
[O:1]=[C:2]1[C:3]([H:6])([H:7])[N:4]([H:8])[C:5]1([H:9])[H:10]>>[O:1]=[C:2]([C:3]([N:4]([C:5][H:10])[H:8])([H:6])[H:7])[H:9],52.8073782830244
[C:1]([O:6][C:5](=[N+:3]([C-:2]([H:11])[H:12])[C:4]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],27.60191052878851
[O:1]([C:2]([C:3]([C:4]#[C:5][H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]1([H:11])[C-:4]=[C:5]([H:12])[C:7]([H:13])=[C+:6]1)([H:9])[H:10])[H:8],79.9954512224998
[C:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C-:2]=[O+:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],77.3407530542707
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[O:7][C:6]([H:12])=[N:5]1)[H:8]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],61.9658967371449
[O:1]([C@@:2]([C:3]([C:4]([O:5][H:12])=[C:6]([H:13])[H:14])([H:10])[H:11])([C:7][H:15])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],2.867991383419195
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O+:7]=[C:6]([C:5]#[C-:4])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],42.23994839438801
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]1[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14],99.1293154242353
[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:4]([C:2](=[O:3])[O:7][C:6](=[O:5])[H:12])([H:10])[H:11])([H:8])[H:9],79.80785626196591
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:13])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([O:7][H:19])[H:18],87.3035935842402
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[H:14])[H:11])([H:7])([H:8])[H:9].[H:10][H:13],101.194881528785
[C:1](/[C:2]([O:3][H:11])=[C:4](/[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],48.54913954982807
